US05219871
Preparation of 2,2-diphenyl-5-(N-methyl-N-phenethylamino)-pentanamide
A mixture constaining 2,2-diphenyl-5-methylaminopentanamide (0.28 g-see Preparation 3), phenethyl chloride (0.14 g) anhydrous potassium carbonate (0.58 g), anhydrous potassium iodide (0.3 g) and acetonitrile (10 ml) was heated under reflux for 16 hours. The mixture was partitioned between dichloromethane (30 ml) and 10% aqueous sodium carbonate (30 ml), the layers separated and the aqueous layer extracted with dichloromethane (2×20 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give an oil which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 5%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a foam, yield 0.14 g.

reactant | 2,2-diphenyl-5-methylaminopentanamide | 0.28 g | C1(=CC=CC=C1)C(C(=O)N)(CCCNC)C1=CC=CC=C1 | C18H22N2O
reactant | phenethyl chloride | 0.14 g | C(CC1=CC=CC=C1)Cl | C8H9Cl
reactant | potassium iodide | 0.3 g | [I-].[K+]
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2,2-diphenyl-5-(N-methyl-N-phenethylamino)-pentanamide | C1(=CC=CC=C1)C(C(=O)N)(CCCN(CCC1=CC=CC=C1)C)C1=CC=CC=C1 | C26H30N2O
